US07732446B1
As described in Example 1, 84 mg of {4-[2-(3,4-dihydro-1H-isoquinolin-2-yl)-2-oxo-ethyl]-6,7-dimethoxy-isoquinolin-1-ylmethyl}-carbamic acid tert-butyl ester was treated with HCl in EtOAc to give 74 mg (99%) of 2-(1-aminomethyl-6,7-dimethoxy-isoquinolin-4-yl)-1-(3,4-dihydro-1H-isoquinolin-2-yl)-ethanone hydrochloride. MS: APCI (M+H) calc'd for C23H25N3O3+H 392.5; found 392.1.

reactant | {4-[2-(3,4-dihydro-1H-isoquinolin-2-yl)-2-oxo-ethyl]-6,7-dimethoxy-isoquinolin-1-ylmethyl}-carbamic acid tert-butyl ester | 84 mg | C(C)(C)(C)OC(NCC1=NC=C(C2=CC(=C(C=C12)OC)OC)CC(=O)N1CC2=CC=CC=C2CC1)=O | C28H33N3O5
reactant | HCl | Cl | ClH
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(1-aminomethyl-6,7-dimethoxy-isoquinolin-4-yl)-1-(3,4-dihydro-1H-isoquinolin-2-yl)-ethanone hydrochloride | 74 mg, 99% | Cl.NCC1=NC=C(C2=CC(=C(C=C12)OC)OC)CC(=O)N1CC2=CC=CC=C2CC1 | InChI=1S/C23H25N3O3.ClH/c1-28-21-10-18-17(13-25-20(12-24)19(18)11-22(21)29-2)9-23(27)26-8-7-15-5-3-4-6-16(15)14-26;/h3-6,10-11,13H,7-9,12,14,24H2,1-2H3;1H
